US08440662B2
Step 5: 7-Bromo-2-chloro-4-morpholin-4-yl-pyrido[3,2-d]pyrimidine
To an ice cold solution of crude 7-bromo-2,4-dichloro-pyrido[3,2-d]pyrimidine (2.85 g, 0.0102 mol) in DCM (25 mL) at 0° C. was added morpholine (1.8 g, 0.0204 mol). The reaction was continued at 0° C. for 30 min. The volatiles were evaporated and subjected to column chromatography (60-120 silica gel, 0-12% ethyl acetate in hexane) to get the title compound as a light yellow solid [0.35 g, 26%]. 1H NMR (300 MHz, DMSO-d6): δ 8.68 (d, J=2.7 Hz, 1H), 8.19 (d, J=2.4 Hz, 1H), 3.86-3.89 (m, 8H); LC-MS (ESI): Calculated mass: 328.0; Observed mass: 330.8 [M+H]+ (RT: 1.50 min).

reactant | 7-bromo-2,4-dichloro-pyrido[3,2-d]pyrimidine | 0.0102 mol, 2.85 g | BrC1=CC=2N=C(N=C(C2N=C1)Cl)Cl | C7H2BrCl2N3
reactant | morpholine | 0.0204 mol, 1.8 g | N1CCOCC1 | C4H9NO
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-2-chloro-4-morpholin-4-yl-pyrido[3,2-d]pyrimidine | 0.35 g, 26% | BrC1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl | C11H10BrClN4O
